* source PSPICE
C_C1         N00091 N00118  1  
R_R1         N00091 N00118  1k  
R_R2         N00118 N00177  1k  
L_L1         N00177 0  1H  
V_V2         N00091 0 DC 0Vdc AC 1V 
