* source SIM
V_V2         N00647 0 1Vdc
R_R2         0 N00696  1k  
D_D7         N01711 N00696 D1N4099 
D_D8         N016050 N00696 D1N4099 
V_0_0_7         N01711 N00647 0Vdc
V_-10         N016050 N00647 0Vdc
